US07091214B2
1-[3-(3-Amino-7-phenylquinolin-4-ylamino)propyl]pyrrolidin-2-one (2.21 g, 6.13 mmol) was treated with ethoxyacetyl chloride (0.95 mL, 8.76 mmol) according to the methods described in Parts C and D of Examples 152–156. Triethylamine (8.6 mmol) was added in Part C. The product from Part D was purified by column chromatography on silica gel (eluting with acetone and then chloroform:methanol in a gradient from 95:5 to 90:10) to provide 1.49 g of 1-[3-(2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]pyrrolidin-2-one as a brown solid.

reactant | 1-[3-(3-Amino-7-phenylquinolin-4-ylamino)propyl]pyrrolidin-2-one | 6.13 mmol, 2.21 g | NC=1C=NC2=CC(=CC=C2C1NCCCN1C(CCC1)=O)C1=CC=CC=C1 | C22H24N4O
reactant | ethoxyacetyl chloride | 8.76 mmol, 0.95 mL | C(C)OCC(=O)Cl | C4H7ClO2
reactant | Triethylamine | 8.6 mmol | C(C)N(CC)CC | C6H15N
product | 1-[3-(2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]pyrrolidin-2-one | 1.49 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)C2=CC=CC=C2)N1)CCCN1C(CCC1)=O | C26H28N4O2
